US08802713B2
0.24 g of 4-chloro-1-{2-fluoro-4-methyl-5-(2,2,2-trifluoroethylthio)phenyl}-3-(1,1,2,3,3,3-hexafluoropropoxy)-5-methylaminopyrazole was dissolved in 10 mL of chloroform, and 120 mg of m-chloroperbenzoic acid (purity: 75%) was added under cooling with ice. After stirring for one hour under cooling with ice, the solution was washed with an aqueous sodium thiosulfate solution and then washed with an aqueous sodium hydrogen carbonate solution, and then dried over anhydrous sodium sulfate. Then, the solvent was distilled off under reduced pressure, and the obtained residue was purified by column chromatography (developing solvent ethyl acetate:hexane=1:2) to obtain 0.24 g of 4-chloro-1-{2-fluoro-4-methyl-5-(2,2,2-trifluoroethylsulfinyl)phenyl}-3-(1,1,2,3,3,3-hexafluoropropoxy)-5-methylaminopyrazole.

reactant | 4-chloro-1-{2-fluoro-4-methyl-5-(2,2,2-trifluoroethylthio)phenyl}-3-(1,1,2,3,3,3-hexafluoropropoxy)-5-methylaminopyrazole | 0.24 g | ClC=1C(=NN(C1NC)C1=C(C=C(C(=C1)SCC(F)(F)F)C)F)OC(C(C(F)(F)F)F)(F)F | C16H12ClF10N3OS
reactant | m-chloroperbenzoic acid | 120 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | chloroform | 10 mL | C(Cl)(Cl)Cl | CHCl3
product | 4-chloro-1-{2-fluoro-4-methyl-5-(2,2,2-trifluoroethylsulfinyl)phenyl}-3-(1,1,2,3,3,3-hexafluoropropoxy)-5-methylaminopyrazole | 0.24 g | ClC=1C(=NN(C1NC)C1=C(C=C(C(=C1)S(=O)CC(F)(F)F)C)F)OC(C(C(F)(F)F)F)(F)F | C16H12ClF10N3O2S
